US06281230B1
To a stirred solution of α-methyl-D,L-glutamic acid (10 g, 62 mmol) in 2 N sodium hydroxide (62 mL) at 0-5° C. was added benzyl chloroformate (12.7 g, 74.4 mmol) over 30 min. After the addition was complete the reaction mixture was stirred at room temperature for 3 hours. During this time the pH was maintained at 11 by addition of 2N sodium hydroxide (33 mL). The reaction mixture was then extracted with ether (60 mL). The aqueous layer was cooled in an ice bath and then acidified with 4N hydrochloric acid (34 mL) to pH=1. The resulting mixture was extracted with ethyl acetate (3×100 mL). The combined ethyl acetate extracts were washed with brine (60 mL) and dried (MgSO4). The solvent was removed in vacuo to give 15.2 g (83%) of N-benzyloxycarbonyl-α-methylglutamic acid as an oil: 1H NMR (CDCl3) δ8.73(m, 5H), 5.77(b, 1H), 5.09(s, 2H), 2.45-2.27(m, 4H), 2.0(s, 3H).

reactant | α-methyl-D,L-glutamic acid | 62 mmol, 10 g | CC(N)(CCC(=O)O)C(=O)O | C6H11NO4
reactant | benzyl chloroformate | 74.4 mmol, 12.7 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | sodium hydroxide | 2 N, 62 mL | [OH-].[Na+]
solvent | sodium hydroxide | 2N, 33 mL | [OH-].[Na+]
product | N-benzyloxycarbonyl-α-methylglutamic acid | 15.2 g, 83% | C(C1=CC=CC=C1)OC(=O)N[C@@](CCC(=O)O)(C(=O)O)C | C14H17NO6
